### PR TITLE
[Merged by Bors] - feat(InfiniteSum/NatInt): lemmas on sums over ℤ

### PR DESCRIPTION
**Pull request by loefflerd**
This PR combines several results involving topological sums over `ℤ`. These results are used in #10011 (Hurwitz zeta functions) where sums over `ℤ` feature heavily. 

* Fill in `tsum` and `Summable` variants for lemmas proved for `HasSum`

* Rename some lemmas (with deprecated aliases) to impose a consistent naming scheme

* Generalise several lemmas to allow the target space to be a topological monoid rather than a group.

* Speed up some slow proofs (the old `summable_int_of_summable_nat` took about 10s to compile on my machine, its replacement `Summable.of_nat_of_neg` is 1000 times faster)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
When you want a review, please add the awaiting-review label

File: Mathlib/Analysis/PSeries.lean [hunk 1]
```diff
@@ -230,8 +230,8 @@ theorem summable_one_div_nat_pow {p : ℕ} :
 theorem summable_one_div_int_pow {p : ℕ} :
     (Summable fun n : ℤ => 1 / (n : ℝ) ^ p) ↔ 1 < p := by
   refine'
-    ⟨fun h => summable_one_div_nat_pow.mp (h.comp_injective Nat.cast_injective), fun h =>
-      summable_int_of_summable_nat (summable_one_div_nat_pow.mpr h)
+    ⟨fun h ↦ summable_one_div_nat_pow.mp (h.comp_injective Nat.cast_injective),
+     fun h ↦ (summable_one_div_nat_pow.mpr h).of_natCast_neg_natCast
         (((summable_one_div_nat_pow.mpr h).mul_left <| 1 / (-1 : ℝ) ^ p).congr fun n => _)⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/PSeries.lean:235]: Why not change this to `refine` and at the end `fun n ↦ ?_` while you are at it?

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 2]
```diff
@@ -321,17 +259,236 @@ end UniformGroup
...
+
+/-- If `f₀, f₁, f₂, ...` and `g₀, g₁, g₂, ...` are both summable, then the sum of the `ℤ`-indexed
+sequence: `..., g₂, g₁, g₀, f₀, f₁, f₂, ...` (with `f₀` at the `0`-th position) is
+`∑' n, f n + ∑' n, g n`. -/
+lemma tsum_int_rec [T2Space α] {f g : ℕ → α} (hf : Summable f) (hg : Summable g) :
+    ∑' n : ℤ, Int.rec f g n = ∑' n : ℕ, f n + ∑' n : ℕ, g n :=
+  (hf.hasSum.int_rec hg.hasSum).tsum_eq
+
+theorem HasSum.natCast_add_neg_natCast {f : ℤ → α} (hf : HasSum f a) :
+    HasSum (fun n : ℕ ↦ f n + f (-n)) (a + f 0) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:365]: I thought that the proof of this should be much easier, but then I realized that the results I wanted to use have stronger assumptions (`AddCommGroup` instead of `AddCommMonoid`, `T2Space`, ...).
Maybe it's worth adding a comment (or docstring) mentioning that this uses only fairly week assumptions on `α`?

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 3]
```diff
@@ -321,17 +259,236 @@ end UniformGroup
 
 section TopologicalGroup
 
-variable {G : Type*} [TopologicalSpace G] [AddCommGroup G] [TopologicalAddGroup G] {f : α → G}
+variable [TopologicalSpace α] [AddCommGroup α] [TopologicalAddGroup α]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:262]: I would perhaps argue in favor of calling groups `G` (or maybe `A` when they are additive) consistently, rather than using the pretty generic `α`. But doing this everywhere would be a lot of work... (and my feelings are not particularly strong).

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM, but I think some topology people should also look at this.

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:365]: Funnily enough, I originally introduced this lemma myself in a mathlib3 PR over a year ago, and what I wrote was a lemma about topological groups with a proof about 5 lines long. The reviewer (Sebastian Gouëzel) generalized my simple little lemma into the behemoth you see here. (The only change to this lemma in the present PR is renaming it & moving it around slightly.)

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 4]
```diff
@@ -335,3 +272,222 @@ theorem Summable.tendsto_atTop_zero {f : ℕ → G} (hf : Summable f) : Tendsto
...
+lemma tsum_natCast_add_neg_natCast [T2Space M] {f : ℤ → M} (hf : Summable f) :
+    ∑' n : ℕ, (f n + f (-n)) = (∑' n : ℤ, f n) + f 0 :=
+  hf.hasSum.natCast_add_neg_natCast.tsum_eq
+
+theorem HasSum.of_succ_negSucc {f : ℤ → M}
+    (hf₁ : HasSum (fun n : ℕ ↦ f (n + 1)) m) (hf₂ : HasSum (fun n : ℕ ↦ f (Int.negSucc n)) m') :
+    HasSum f (m + f 0 + m') :=
+  haveI : ∀ g : ℕ → M, HasSum (fun k ↦ g (k + 1)) m → HasSum g (m + g 0) :=
+    fun g hg ↦ by simpa using (add_comm _ m ▸ hg.sum_range_add :)
+  (this (fun n ↦ f n) hf₁).nonneg_add_neg hf₂
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:427]: It feels weird to me to prove a general statement for a general function `g`, but to apply it just to the specific function `f`. Why not just write it as: `HasSum f (m + f 0)`?

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 5]
```diff
@@ -335,3 +272,222 @@ theorem Summable.tendsto_atTop_zero {f : ℕ → G} (hf : Summable f) : Tendsto
...
+
+In this section we prove a variety of lemmas relating sums over `ℕ` to sums over `ℤ`.
+-/
+
+section Int
+
+section Monoid
+
+lemma HasSum.natCast_add_negSucc {f : ℤ → M} (hf : HasSum f m) :
+    HasSum (fun n : ℕ ↦ f n + f (Int.negSucc n)) m := by
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:289]: I'm not sure whether `Int.negSucc n` is really the normal form we want to use -- it feels more like an implementation detail of the integers in Lean. What about using `- (n+1)` instead (which is defeq)? Note I'm not sure of myself here, as I don't think there is a simp lemma converting the former to the latter, so it might be worth asking on Zulip what people think.

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks!

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean]: I actually had the same feeling, but didn’t want to unilaterally change the existing formulations. Since you don’t like the negSucc formulations either, I have pushed a change.

> I'm not sure whether `Int.negSucc n` is really the normal form we want to use -- it feels more like an implementation detail of the integers in Lean. What about using `- (n+1)` instead (which is defeq)? Note I'm not sure of myself here, as I don't think there is a simp lemma converting the former to the latter, so it might be worth asking on Zulip what people think.

**Comment by sgouezel** [comment]
bors r+
Thanks!
